US07910585B2
At room temperature, a solution of 2-bromomethyl-3-(tert-butyl-dimethyl-silanyloxy)-6-nitro-benzoic acid methyl ester (12.6 g, 25.1 mmol) in 60 mL of THF is added 2M solution of methylamine in THF (37.7 mL, 75.3 mmol) at 0° C. and then the reaction mixture is stirred for 6 hours at the room temperature. Methanol and 1M Hydrochloric acid solution are added to the reaction mixture. The mixture is evaporated in vacuo and the precipitate is collected to give 4-hydroxy-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one (2.1 g) as yellow solid in 40% yields for 3 steps.

reactant | 2-bromomethyl-3-(tert-butyl-dimethyl-silanyloxy)-6-nitro-benzoic acid methyl ester | 25.1 mmol, 12.6 g | COC(C1=C(C(=CC=C1[N+](=O)[O-])O[Si](C)(C)C(C)(C)C)CBr)=O | C15H22BrNO5Si
reactant | methylamine | CN | CH5N
reactant | Methanol | CO | CH4O
reactant | Hydrochloric acid | 1M | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 75.3 mmol, 37.7 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-2-methyl-7-nitro-2,3-dihydro-isoindol-1-one | 2.1 g | OC1=C2CN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C9H8N2O4
